US07812025B2
N-(3,4-Dimethylisoxazol-5-yl)-4-[3-(3-thienyl)phenyl]piperazine-1-carboxamide
A mixed solution of 2,2,2-trichloroethyl(3,4-dimethylisoxazol-5-yl)carbamate (129 mg, 0.450 mmol), 1-[3-(3-thienyl)phenyl]piperazine (100 mg, 0.409 mmol) and diisopropylethylamine (0.143 ml, 0.818 mmol) in dimethylsulfoxide (1.5 ml) was stirred at 70° C. for 15 hours. Water was poured into the reaction solution, and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduce pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:7), and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give the titled compound 30.7 mg (19.6%) as solid product.

reactant | 2,2,2-trichloroethyl(3,4-dimethylisoxazol-5-yl)carbamate | 0.450 mmol, 129 mg | ClC(COC(NC1=C(C(=NO1)C)C)=O)(Cl)Cl | C8H9Cl3N2O3
reactant | 1-[3-(3-thienyl)phenyl]piperazine | 0.409 mmol, 100 mg | S1C=C(C=C1)C=1C=C(C=CC1)N1CCNCC1 | C14H16N2S
reactant | diisopropylethylamine | 0.818 mmol, 0.143 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 1.5 ml | CS(=O)C | C2H6OS
product | N-(3,4-Dimethylisoxazol-5-yl)-4-[3-(3-thienyl)phenyl]piperazine-1-carboxamide | 30.7 mg, 19.6% | CC1=NOC(=C1C)NC(=O)N1CCN(CC1)C1=CC(=CC=C1)C1=CSC=C1 | C20H22N4O2S
